US06969725B2
c] (2S)-2-Ethoxy-3-(4-hydroxy-2-methoxy-phenyl)-propionic acid methyl ester
A solution of (2S,3R)-3-(4-benzyloxy-2-methoxy-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester (100 mg, 200 μmol) and oxalic acid dihydrate (150 mg, 1.2 mmol) in isopropanol (2 ml) was hydrogenated at a pressure of 50 atmospheres over 10% palladium on charcoal (20 mg) at ambient temperature for 6.5 h. The catalyst was filtered off and the solvent evaporated under reduced pressure. The residue was dissolved in ice water/aqueous sodium bicarbonate solution 1/1 and extracted two times with ethyl acetate. The combined extracts were washed two times with ice water/brine 1/1 and dried over sodium sulfate. The solvent was removed under reduced pressure to give a yellow liquid which was purified by column chromatography (silica gel, cyclohexane/AcOEt) to yield 43 mg (170 μmol, 85%) of the title compound as light yellow liquid.

reactant | (2S,3R)-3-(4-benzyloxy-2-methoxy-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester | 200 μmol, 100 mg | COC([C@H]([C@H](O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)OCC)=O | C20H24O6
reactant | oxalic acid dihydrate | 1.2 mmol, 150 mg | O.O.C(C(=O)O)(=O)O
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | (2S)-2-Ethoxy-3-(4-hydroxy-2-methoxy-phenyl)-propionic acid methyl ester | 170 μmol, 43 mg, 85% | COC([C@H](CC1=C(C=C(C=C1)O)OC)OCC)=O | C13H18O5
